US07074970B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir(cod)Cl]2 (6.7 mg, 0.01 mmol) and sodium carbonate (64 mg, 0.6 mmol) in toluene (1.0 ml), 1,6-hexanediol (118 mg, 1 mmol) and vinyl acetate (344 mg, 4 mmol) were added, followed by stirring at 100° C. in an atmosphere of argon gas for 6 hours. The reaction mixture was analyzed by gas chromatography to find that 1,6-bis(vinyloxy)hexane and 6-vinyloxy-1-hexanol were produced in yields of 87% and 2%, respectively, with a conversion from 1,6-hexanediol of 97%.

reactant | sodium carbonate | 0.6 mmol, 64 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,6-hexanediol | 1 mmol, 118 mg | C(CCCCCO)O | C6H14O2
reactant | vinyl acetate | 4 mmol, 344 mg | C(C)(=O)OC=C | C4H6O2
reactant | 1,6-bis(vinyloxy)hexane | C(=C)OCCCCCCOC=C | C10H18O2
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | 6-vinyloxy-1-hexanol | C(=C)OCCCCCCO | C8H16O2
